US03992441
3-Benzyloxypiperidine
1-Acetyl-3-benzyloxypiperidine (0.043 mole), sodium hydroxide (0.086 mole) and water (30 ml.) are combined and refluxed for 24 hours. The reaction mixture is saturated with potassium carbonate and extracted three times with ether. The ether is removed by evaporation and the yellow oil is distilled at 92°-94° C. (0.3 mm Hg.).

reactant | 1-Acetyl-3-benzyloxypiperidine | 0.043 mole | C(C)(=O)N1CC(CCC1)OCC1=CC=CC=C1 | C14H19NO2
reactant | sodium hydroxide | 0.086 mole | [OH-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 30 ml | O | H2O
product | 3-Benzyloxypiperidine | C(C1=CC=CC=C1)OC1CNCCC1 | C12H17NO
